US07288677B2
Diethyl(methyl)-1,3-cyclohexanediamine, as a mixture of its 2,4-diethyl-6-methyl- and 4,6-diethyl-2-methyl-isomers was made as described in Example 4. Diethyl(methyl)-1,3-cyclohexanediamine, as a mixture of its 2,4-diethyl-6-methyl- and 4,6-diethyl-2-methyl-isomers (10 g), Pt(S)/C (0.5 g), Amberlyst-15 (0.5 g), and acetone (50 g) were charged into a 100 mL metal autoclave at 22° C. The closed autoclave was purged 3 times with 125 psig (9.63×105 Pa) of H2 at 22° C. to remove traces of air. The reaction mixture was then heated at 110-130° C. under 125 psig (9.63×105 Pa) of H2 for 8 hrs (until no further H2 uptake was observed). The product mixture was cooled to 22° C. and degassed. A diluted product sample was analyzed by GC (100° C. for 5 minutes at 110° C. per minute rate; final temperature, 270° C.). The GC data (normalization method) showed 100% conversion of diethyl(methyl)-1,3-cyclohexanediamine, and a 95-97% yield of N,N′-diisopropyl-[diethyl(methyl)-1,3-cyclohexanediamine].

reactant | Diethyl(methyl)-1,3-cyclohexanediamine | C(C)C1(C(CCCC1N)(N)C)CC | C11H24N2
catalyst | Pt(S)/C | 0.5 g | [Pt] | Pt
solvent | acetone | 50 g | CC(=O)C | C3H6O
product | N,N′-diisopropyl-[diethyl(methyl)-1,3-cyclohexanediamine] | 95-97% yield | C(C)(C)NC1(C(C(CCC1)NC(C)C)(CC)CC)C | C17H36N2
